Ngspice T1

.options savecurrents

V1  v1  v4   5.00120775651
I1  v8  v6  1.03136220214m
VT  v4  v0  0
R1  v2  v1  1.01080769792K
R2  v3  v2  2.07664633274K
R3  v2  GND  3.12595649013K
R4  GND  v4  4.18722214507K
R5  v6  GND  3.0841699201K
R6  v7  v0  2.00179338129K
R7  v8  v7  1.04556537884K
G1  v6  v3  v2  GND  7.12593545434m
H1  GND  v8  VT  8.24048597287K

.control
op

echo  "op_TAB"
print all
echo  "op_END"

quit
.endc
.end

